US04000143
Reduction of 2-(o-formamidophenethyl)-1-methylpyridinium iodide as described in Example 1 for 2-(o-nitrostyryl)-1-methylpyridinium iodide provides 2'-[2-(1-methyl-2-piperidyl)-ethyl]formanilide which is purified by crystallization from isopropyl ether, (79% yield) m.p. 81°-84.5° C. (corr.).

reactant | 2-(o-formamidophenethyl)-1-methylpyridinium iodide | [I-].C(=O)NC1=C(CCC2=[N+](C=CC=C2)C)C=CC=C1
reactant | 2-(o-nitrostyryl)-1-methylpyridinium iodide | [I-].[N+](=O)([O-])C1=C(C=CC2=[N+](C=CC=C2)C)C=CC=C1
product | 2'-[2-(1-methyl-2-piperidyl)-ethyl]formanilide | CN1C(CCCC1)CCC1=C(NC=O)C=CC=C1 | C15H22N2O
